US07482486B2
Surprisingly, the inventors have discovered that a heretofore unknown valproate salt, magnesium valproate hydrate, a white solid having the molecular formula C16H30O4Mg.x H2O, is recovered in high yields from an alcoholic solution of magnesium valproate by adding a polar, non-oxygen-containing organic solvent having a boiling point of about 130° C. or lower in a volume sufficient to reduce the solubility of the magnesium valproate in the resulting reaction mixture to less than about 0.01 g/mL. The polar, non-oxygen-containing organic solvent is acetonitrile, propionitrile, butyronitrile, or isobutyronitrile. Acetonitrile is most preferred.

reactant | valproate | C(C(CCC)CCC)(=O)[O-]
reactant | magnesium valproate hydrate | O.C(C(CCC)CCC)(=O)[O-].[Mg+2].C(C(CCC)CCC)(=O)[O-]
solvent | H2O | O | H2O
product | magnesium valproate | C(C(CCC)CCC)(=O)[O-].[Mg+2].C(C(CCC)CCC)(=O)[O-] | InChI=1S/2C8H16O2.Mg/c2*1-3-5-7(6-4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
